US08278482B2
Benzyl 1-(dimethylamino)-2-methylpropan-2-ylcarbamate
N1,N1,2-Trimethylpropane-1,2-diamine (5.68 g, 48.8 mmol) was dissolved into isopropanol/water (1:1, 150 mL). To this solution was added CbzOSu (12.2 g, 1 equiv, 48.8 mmol) in one portion. The reaction was left to stir at room temperature overnight for 17 h. The solvent was removed and the residue was taken up in a mixture of ethyl acetate (300 mL) and water (100 mL). The layers were separated and the organic layer extracted with water (2×100 mL). The organic layer was dried over anhydrous MgSO4, filtered and concentrated to an oil. The crude oil was purified on an ISCO purification system with gradient elution from 2% methanol in DCM to 30% methanol in DCM. The desired fraction was collected and concentrated to give a colorless oil (8.95 g, yield: 73.2%). 1H NMR (CDCl3, 400 MHz): δ 1.41 (s, 6H), 2.51 (s, 2H), 2.98 (s, 2 H). LRMS (ESI+) for C14H22N2O2 (250.2); Found: 251 (MH+).

reactant | N1,N1,2-Trimethylpropane-1,2-diamine | 48.8 mmol, 5.68 g | CN(CC(C)(N)C)C | C6H16N2
reactant | CbzOSu | 48.8 mmol, 12.2 g, 1 equiv | C(=O)(OCC1=CC=CC=C1)ON1C(=O)CCC1=O | C12H11NO5
solvent | isopropanol water | 150 mL | C(C)(C)O.O
product | Benzyl 1-(dimethylamino)-2-methylpropan-2-ylcarbamate | 8.95 g, yield: 73.2% | CN(CC(C)(C)NC(OCC1=CC=CC=C1)=O)C | C14H22N2O2
